US07820685B2
2,6-Difluoro -N-[4-(4,6-dichloro-pyrimidin-2-ylsulfanyl)-phenyl]-benzamide
A 250ml round bottom flask equipped with a condenser was charged with 4,6-dichloro-2-methanesulfonyl pyrimidine (4.2 g, 18.8 mmol), 2,6-difluoro-N-(4-mercapto-phenyl)-benzamide (4.98 g, 18.8 mmol) and tert-butanol (75 ml) under nitrogen. The reaction mixture was degassed thoroughly and then heated at 90° C. for 2 h. The reaction mixture was allowed to cool to room temperature and concentrated in vacuo. The solid residue was taken up in ethyl acetate (50 ml) and washed with saturated sodium bicarbonate solution and brine. The organic was dried over magnesium sulfate, filtered and concentrated until the product began to precipitate. The mixture was then cooled and aged for 12 hrs. The product was collected by filtration, washed with cold ethyl acetate and dried. This gave the title compound as an off-white solid (2.7 g, 35%). 1H NMR (DMSO) 7.32 (2H, m), 7.61 (3H, m), 7.79 (1H, s), 7.82 (2H, d), 10.9 (1H, s). MS (ES+): 412.19

reactant | 4,6-dichloro-2-methanesulfonyl pyrimidine | 18.8 mmol, 4.2 g | ClC1=NC(=NC(=C1)Cl)S(=O)(=O)C | C5H4Cl2N2O2S
reactant | 2,6-difluoro-N-(4-mercapto-phenyl)-benzamide | 18.8 mmol, 4.98 g | FC1=C(C(=O)NC2=CC=C(C=C2)S)C(=CC=C1)F | C13H9F2NOS
solvent | tert-butanol | 75 ml | C(C)(C)(C)O | C4H10O
product | 2,6-Difluoro -N-[4-(4,6-dichloro-pyrimidin-2-ylsulfanyl)-phenyl]-benzamide | 2.7 g, 35% | FC1=C(C(=O)NC2=CC=C(C=C2)SC2=NC(=CC(=N2)Cl)Cl)C(=CC=C1)F | C17H9Cl2F2N3OS
